US08071776B2
3-amino-5-chloro-4-methyl-6-{2-[(pyridine-4-carbonyl)-amino]-ethoxy}-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of N-(2-hydroxyethyl)-isonicotinamide (0.831 g, 5.00 mmol) in THF (2.5 ml) at room temperature is added dropwise a solution of lithium bis(trimethylsilyl) amide (1.0 M in hexanes)(2.50 ml, 2.50 mmol). The reaction mixture is stirred for 15 minutes and then is treated with 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (0.345 g, 1.00 mmol). The reaction mixture is heated at 80° C. in a sealed tube for 2 hours, cooled to room temperature, and then quenched by the addition of water (15 ml). The mixture is diluted to 100 ml with water and then cooled to 0° C. and stirred. A yellow precipitate is formed. This solid is collected by filtration, slurried in EtOAc, and filtered again to give a yellow solid which is placed in the vacuum oven to dry (50° C. for 3 hours). This affords the title compound as a yellow solid (0.046 g, 10%). Mass (m/z): 446.3 (M++1), 444.2 (M+−1).

reactant | N-(2-hydroxyethyl)-isonicotinamide | 5.00 mmol, 0.831 g | OCCNC(C1=CC=NC=C1)=O | C8H10N2O2
reactant | lithium bis(trimethylsilyl) amide | 2.50 mmol, 1.0 M, 2.50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 1.00 mmol, 0.345 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 3-amino-5-chloro-4-methyl-6-{2-[(pyridine-4-carbonyl)-amino]-ethoxy}-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.046 g, 10% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCCNC(=O)C2=CC=NC=C2)S1)N | C20H20ClN5O3S
